US09126937B2
N-(6-((tert-butyldimethylsilyl)oxy)hexyl)-N-cyclohexylbenzamide:
To a solution of N-(6-((tert-butyldimethylsilyl)oxy)hexyl)cyclohexanamine (208 mg, 0.66 mmol) and triethyl amine (0.19 mL, 1.32 mmol) in methylene chloride (5 mL) at 0° C. was added benzoyl chloride (0.092 mL, 0.80 mmol). The mixture was stirred for 2 hours before it was diluted with ethyl acetate and washed with saturated bicarbonate solution nd brine. The organic phase was separated and concentrated. Purification on silica gel with ethyl acetate: hexanes from 0:1 to 2:8 provided desired product as a clear oil (242.2 mg, 88%). 1H NMR (300 MHz, CDCl3): δ 7.40-7.20 (m, 5H), 3.64-2.95 (m, 5H), 1.95-0.88 (m, 18H), 0.83 (s, 9H), 0.00 (s, 6H).

reactant | N-(6-((tert-butyldimethylsilyl)oxy)hexyl)cyclohexanamine | 0.66 mmol, 208 mg | [Si](C)(C)(C(C)(C)C)OCCCCCCNC1CCCCC1 | C18H39NOSi
reactant | triethyl amine | 1.32 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.80 mmol, 0.092 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(6-((tert-butyldimethylsilyl)oxy)hexyl)-N-cyclohexylbenzamide | 242.2 mg, 88% | [Si](C)(C)(C(C)(C)C)OCCCCCCN(C(C1=CC=CC=C1)=O)C1CCCCC1 | C25H43NO2Si
